Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysphagia, food impaction
 
Major Surgical or Invasive Procedure:
EGD ___
Endotracheal intubation
 
History of Present Illness:
___ female past medical history significant for 
___ disease, restless leg syndrome, spinal stenosis, 
hypertension, hyperlipidemia, left bundle branch block presented 
to the ED early this morning with concerns of a fall overnight. 
Patient lives alone in her home. She was up in the middle of the 
night to go to the restroom when she fell on her bottom. She 
pressed her Lifeline. Both EMT and patient's daughter arrived. 
Patient denied hitting her head or loss
of consciousness. Denied any associated dizziness, chest pain or 
shortness of breath. Patient was taken to ___ ED.
   On evaluation in the ED temp 98.1, heart rate 105, blood 
pressure 152/81 oxygen saturation was 98% on room air. 
Laboratory data was significant for WBC 11.4 and H&H stable. 
Chemistries stable. Troponin negative. Multiple imaging 
studies completed including head CT which was unremarkable. 
While patient was
being evaluated she was given breakfast. She started vomiting 
after eating an egg and strawberries. She underwent an abdominal 
CT which revealed distal esophagus to be 
impacted with debris. GI was consulted. Patient underwent an 
upper endoscopy 
under general anesthesia. GI was concerned that they were unable 
to remove all of the food bolus and wanted to transfer her to 
___ for further GI evaluation and repeat endoscopy.

She was extubated and remained on the floor at ___ while 
awaiting transfer to ___.
 
On transfer, vitals were: HR 101, BP 158/79, RR 18, O2Sat 94% on 
RA.

On arrival to the MICU, the patient reports that she wants to go 
home because her mom and dad are looking for her. She denies CP, 
dysphagia, fevers/chills, cough, SOB, abdominal pain.

 
Past Medical History:
Left bundle branch block
Hypertension
Hyperlipidemia
Degenerative joint disease
Vertigo
Restless leg syndrome
Spinal stenosis
Cervical spinal stenosis
Carpal tunnel
___ disease
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Admission exam
Vitals: T: AF BP: ___ P: 94 R: 18 O2: 93% on RA 
GENERAL: Alert, AAOX1, cantankerous, uncooperative

PATIENT DID NOT ALLOW US TO EXAMINE HER

Discharge Physical Exam:
========================
Vitals: 98.1 PO 147 / 69 83 18 97 RA 
General: NAD, lying in bed, difficulty mobilizing 
HEENT: Sclera anicteric, MMM, OP clear 
Neck: No LAD, no JVD
Lungs: CTAB, no wheezes
CV: RRR, S1 + S2 present, no mrg
Abdomen: Soft, nontender, no HSM, BS+ 
Neuro: AOx2 (name, place), following commands
Ext: WWP, no edema 
 
Pertinent Results:
Admission labs
___ 02:45AM BLOOD WBC-14.6* RBC-4.80 Hgb-13.6 Hct-43.0 
MCV-90 MCH-28.3 MCHC-31.6* RDW-13.5 RDWSD-44.5 Plt ___
___ 02:45AM BLOOD Neuts-84.3* Lymphs-8.6* Monos-6.4 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-12.30* AbsLymp-1.25 
AbsMono-0.93* AbsEos-0.04 AbsBaso-0.02
___ 02:45AM BLOOD ___ PTT-44.8* ___
___ 02:45AM BLOOD Glucose-116* UreaN-9 Creat-0.6 Na-137 
K-3.8 Cl-101 HCO3-23 AnGap-17
___ 02:45AM BLOOD ALT-20 AST-42* LD(LDH)-426* AlkPhos-76 
TotBili-0.6
___ 02:45AM BLOOD Albumin-3.7 Calcium-8.6 Phos-2.5* Mg-1.8

Micro
None

Imaging
___ CT chest w/o contrast
1. Markedly distended esophagus along its entire course, 
containing ingested material and secretions.  Apparent wall 
thickening of the proximal stomach, although this may be 
exaggerated by luminal under distension.  Recommend correlation 
with results from recent EGD. 
2. Scattered peribronchiolar opacities, consistent with 
multifocal infection.  However, consolidation in the right upper 
lobe is more nodular in appearance and follow-up CT is 
recommended in 3 months to exclude underlying malignancy. 
3. Other additional scattered pulmonary nodules measuring up to 
5 mm, could also be reassessed at the time of the next 
follow-up. 
4. Severe coronary artery calcifications.  Mild aortic valvular 
calcifications. 
5. Probable pulmonary arterial hypertension. 
RECOMMENDATION(S): 
1. Correlation with EGD results. 
2. Chest CT in 3 months. 

___ KUB
1.  No evidence of free intraperitoneal air.  The nasogastric 
tube tip is not detected, as it courses out of view.  Consider 
withdrawing several cm and repeating a film for confirmation. 
2.  Right lung opacities correlate with findings of multifocal 
infection on the earlier CT chest. 

___ CXR
The ETT has been removed.  The NG tube courses out of sight 
inferiorly.  
Airspace opacification in the right mid lung since suggesting 
aspiration/pneumonia. 

EGD ___
The esophagus was circumferentially coated in food material
consistent with known ingestion of scrambled eggs. The eggs were
non-obstructing and the lower esophageal sphincter was open. The
scope was passed into the stomach without difficulty. Using the
scope and water, the majority of the eggs were pushed into the
stomach. Poor motility was noted throughout the entire 
esophagus,
but water and eggs were seen to eventually progress to the
stomach.  
Clear fluid was seen in the stomach body and fundus. 
A single non-bleeding angioectasia was noted in the antrum. 
Normal duodenum.

Discharge Labs:
___ 07:20AM BLOOD WBC-9.8 RBC-4.73 Hgb-13.9 Hct-42.8 MCV-91 
MCH-29.4 MCHC-32.5 RDW-13.8 RDWSD-46.0 Plt ___
___ 07:20AM BLOOD Glucose-147* UreaN-26* Creat-0.5 Na-142 
K-3.6 Cl-100 HCO3-29 AnGap-17
___ 07:20AM BLOOD Calcium-9.7 Phos-4.1 Mg-2.1
 
Brief Hospital Course:
Summary
___ female past medical history significant for 
___ disease, restless leg syndrome, spinal stenosis, 
hypertension, hyperlipidemia, left bundle branch block presented 
to the ED with concerns of a fall overnight and was found to 
have a food impaction.

Acute issues
1. Food impaction: On EGD, patient did not have signs of 
peristalsis. Food was coating the esophagus but not obstructing 
the lumen which explains why patient was able to tolerate 
secretions. Differential for aperistalsis is broad, but 
achalasia ruled out with normal LES. ___ could be 
contributing vs. infiltrative disease vs. malignancy. Speech and 
swallow found no evidence of oropharyngeal aspiration risk and 
she was started on a full liquid diet. She was advised to 
continue on a liquid diet pending GI motility study on ___. 
Initially started on tube feeds via NGT per nutrition/GI recs 
given concern for inability to obtain adequate nutrition with 
liquid diet, but DC'ed given GOC. Discharged with plan for 
liquid diet until GI motility study to determine prognosis, then 
determination if patient will be allowed to eat for comfort 
knowing aspiration risk. Made DNR/DNI/DNH during this admission 
after discussion with patient and daughter in accordance with 
her wishes. 

2. Aspiration pneumonia: Patient has evidence of aspiration 
pneumonia on CT-chest though does not have symptoms. She was 
started on Ceftriaxone IV and switched to Augmentin PO for a 7 
day course that finished ___.

3. Fall. Likely mechanical especially given patient's history of 
___. 
 

Chronic issues:
___ disease: continued carbidopa-levodopa 50-200 1 tab 
po 5x/day, held home gabapentin in setting of delirium 
#hx TIA: continued home clopidogrel  
#Restless legs syndrome: continued home ropinirole (despite 
delirium risk, patient is very symptomatic)  
#Anxiety/insomnia: held home lorazepam in setting of delirium. 
Continued home sertraline at night  
#GERD: continued omeprazole 20 mg PO daily  
#HTN: continued amlodipine 5 mg daily  

TRANSITIONAL ISSUES: 
====================
- outpatient motility study with GI ___
- liquid diet pending motility study
- lorazepam and gabapentin held at discharge given in hospital 
delirium, restart as needed
- radiology: CT edits: multifocal asp? PNA, gastric wall 
thickenening, could be due to underdistension, distal esophagus 
could have achalasia/tumor not seen, has nodular opacities RUL 
c/f ? malignancy, recommend 3 month follow up for interval 
monitoring

#Code: Do not resuscitate/Do not intubate/No hospital transfer 
(MOLST form signed)
#Communication: Daughter (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa CR (50-200) 1 TAB PO 5X/DAY 
2. amLODIPine 5 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Citracal + D Maximum (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Gabapentin 100 mg PO 5X/DAY 
10. LORazepam 0.5 mg PO QHS 
11. rOPINIRole 0.25 mg PO BID 
12. Sertraline 50 mg PO DAILY 
13. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 5 mg PO DAILY  
3.  Carbidopa-Levodopa CR (50-200) 1 TAB PO 5X/DAY  
4.  Citracal + D Maximum (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY  
5.  Clopidogrel 75 mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  rOPINIRole 0.25 mg PO BID  
11.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Agitation 
 
Secondary diagnosis: 
___ 
Restless leg syndrome 
Anxiety/insomnia 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ due to food in your esophagus that 
was not digesting properly. You were evaluated with an upper 
endoscopy to help move the food. You also had an infection in 
your lungs which we treated with antibiotics.

We would like you to have another test after you leave to see 
how food is moving into your stomach. For now, you should not 
eat any solid food. You can drink liquids and have soups and 
other liquid food.

After you leave, please continue taking your medications as 
prescribed.

Sincerely,
Your ___ team
 
Followup Instructions:
___